US06489344B1
1 mmol of 2-amino-6-chloro-3-nitropyridine and 15 mmol of 1,2-diaminoethane were stirred at reflux for fourteen hours. The reaction mixture was concentrated in vacuo and solution of 1.5 mmol of NaOH in water was added. This solution was extracted twice with 95%/5% methylene chloride/methanol. The aqueous was then saturated with salt and extracted twice with 95%/5% acetonitrile/methanol and then finally extrated twice with 95%/5% ethylacetate/methanol. All organic fractions were combined and dried over sodium sulfate to obtain (2-aminoethyl)(6-amino-5-nitro(2-pyridyl))amine.

reactant | 2-amino-6-chloro-3-nitropyridine | 1 mmol | NC1=NC(=CC=C1[N+](=O)[O-])Cl | C5H4ClN3O2
reactant | 1,2-diaminoethane | 15 mmol | NCCN | C2H8N2
reactant | NaOH | 1.5 mmol | [OH-].[Na+]
solvent | water | O | H2O
product | (2-aminoethyl)(6-amino-5-nitro(2-pyridyl))amine | NCCNC1=NC(=C(C=C1)[N+](=O)[O-])N | C7H11N5O2
